US09060949B2
Ethyl-carbamic acid (1R,2S,5R)-2-isopropyl-5-methyl-cyclohexyl ester (BIO1151)
58.7 g of menthyl chloroformate (80% in toluene) were added to a mixture of 16.6 g of pyridine and 150 mL ethylamine (2M solution in THF) in 100 mL toluene at 0° C. over a period of 30 minutes. After stirring for 12 hours at room temperature, 100 mL of 2M HCl and subsequently 50 mL water were added, the phases separated and the water phase discarded. After washing with saturated NaHCO3-solution and water the organic phase was dried and evaporated to yield 47.1 g of crude product which was recrystallized from 82.4 g n-heptane to give 24.4 g of the analytically pure product as white crystals.

reactant | menthyl chloroformate | 58.7 g | ClC(=O)OC1CC(CCC1C(C)C)C | C11H19ClO2
reactant | pyridine | 16.6 g | N1=CC=CC=C1 | C5H5N
reactant | ethylamine | 2M, 150 mL | C(C)N | C2H7N
reactant | HCl | 2M, 100 mL | Cl | ClH
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
product | Ethyl-carbamic acid (1R,2S,5R)-2-isopropyl-5-methyl-cyclohexyl ester | C(C)(C)[C@H]1[C@@H](C[C@@H](CC1)C)OC(NCC)=O | C13H25NO2
